US07034039B2
A mixture of tert-butyl(6-bromo-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl)methylcarbamate (0.24 g, 0.5 mmol), sodium thiomethoxide (0.080 g, 1.1 mmol) and N,N-dimethylformamide (4 mL) was stirred at 85° C. for 1 h, and the reaction mixture was poured into water (50 mL) and extracted twice with ethyl acetate (25 mL). The extracts were combined, washed with saturated aqueous sodium hydrogencarbonate (15 mL) and saturated brine (15 mL), dried over anhydrous magnesium sulfate (12 g) and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=4:1 (v/v)) to give tert-butyl[2-isobutyl-6-(methylsulfanyl)-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.17 g, 73%) as a colorless powder.

reactant | tert-butyl(6-bromo-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl)methylcarbamate | 0.5 mmol, 0.24 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC(C)C)=O | C25H29BrN2O3
reactant | sodium thiomethoxide | 1.1 mmol, 0.080 g | C[S-].[Na+]
reactant | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | water | 50 mL | O | H2O
product | tert-butyl[2-isobutyl-6-(methylsulfanyl)-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.17 g, 73% | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)SC)=O)CC(C)C)=O | C26H32N2O3S
